US07939536B2
b: Synthesis of (2-methoxymethoxyphenyl)acetic acid
To 20 mL of a methanol solution containing 0.69 g of ethyl-(2-methoxymethoxyphenyl)acetate, 16 mL of 1M aqueous sodium hydroxide solution was added and stirred at room temperature for 5 hours. From the reaction liquid the solvent was distilled off under reduced pressure and the residue was rendered acidic with 2M aqueous citric acid solution and extracted with ethyl acetate. The ethyl acetate extract was dried over anhydrous magnesium sulfate and thereafter the solvent therein was distilled off under reduced pressure to provide 0.47 g (yield: 77%) of the title compound as an oily substance.

reactant | ethyl-(2-methoxymethoxyphenyl)acetate | 0.69 g | C(C)OC(CC1=C(C=CC=C1)OCOC)=O | C12H16O4
reactant | sodium hydroxide | 1M, 16 mL | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | (2-methoxymethoxyphenyl)acetic acid | 0.47 g, yield: 77% | COCOC1=C(C=CC=C1)CC(=O)O | C10H12O4
